US05262390
A mixture of 7.10 g (0.027 mole) of 4-(4-fluorophenylmethoxy)-2-fluorophenyl isocyanate and 7.0 g (0.060 mole) of trimethylsilyl azide was heated at reflux for approximately seventeen hours. The solution was then allowed to cool to room temperature before being poured over ice. A solid formed and was recovered by filtration. The solid was dried, leaving 8.08 g of 1-[4-(4-fluorophenylmethoxy)-2-fluorophenyl]-1,4-dihydro-5H-tetrazol-5-one, m.p. 171°-172° C.

reactant | 4-(4-fluorophenylmethoxy)-2-fluorophenyl isocyanate | 0.027 mole, 7.10 g | FC1=CC=C(C=C1)COC1=CC(=C(C=C1)N=C=O)F | C14H9F2NO2
reactant | trimethylsilyl azide | 0.060 mole, 7.0 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 1-[4-(4-fluorophenylmethoxy)-2-fluorophenyl]-1,4-dihydro-5H-tetrazol-5-one | 8.08 g | FC1=CC=C(C=C1)COC1=CC(=C(C=C1)N1N=NNC1=O)F | C14H10F2N4O2
